US04525298
3.32 g (20 mM) of 5-(2,2-dimethylpropyl)-5-hexen-2-yn-1-ol have been esterified by means of 4.5 g (35 mM) of propionic anhydride and 0.2 ml of concentrated H3PO4. The mixture was taken up with ether, then it was washed with 2 fractions of a 2N solution of NaOH, neutralized with water, dried and concentrated. Bulb distillation at 6.65 Pa gave 4.4 g of 5-(2,2-dimethylpropyl)-5-hexen-2-ynyl propionate (yield 70%).

reactant | 5-(2,2-dimethylpropyl)-5-hexen-2-yn-1-ol | 20 mM, 3.32 g | CC(CC(CC#CCO)=C)(C)C | C11H18O
reactant | propionic anhydride | 35 mM, 4.5 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | H3PO4 | 0.2 ml | OP(=O)(O)O | H3O4P
solvent | ether | CCOCC | C4H10O
product | 5-(2,2-dimethylpropyl)-5-hexen-2-ynyl propionate | 4.4 g, yield 70% | C(CC)(=O)OCC#CCC(=C)CC(C)(C)C | C14H22O2
